US07074800B1
A suspension of ethyl 3-methoxy-4-(1-methylpiperidin-4-ylmethoxy)-6-nitrobenzoate (3.89 g, 10 mmol) in methanol (80 ml) containing 10% platinum on activated carbon (50% wet) (389 mg) was hydrogenated at 1.8 atmospheres pressure until uptake of hydrogen ceased. The mixture was filtered and the filtrate was evaporated. The residue was dissolved in water (30 ml) and adjusted to pH10 with a saturated solution of sodium hydrogen carbonate. The mixture was diluted with ethyl acetate/ether (1/1) and the organic layer was separated. The aqueous layer was further extracted with ethyl acetate/ether and the organic layers were combined. The organic layers were washed with water, brine, dried (MgSO4), filtered and evaporated. The resulting solid was triturated in a mixture of ether/petroleum ether, filtered, washed with petroleum ether and dried under vacuum at 60° C. to give ethyl 6-amino-3-methoxy-4-(1-methylpiperidin-4-ylmethoxy)benzoate (2.58 g, 80%).

reactant | ethyl 3-methoxy-4-(1-methylpiperidin-4-ylmethoxy)-6-nitrobenzoate | 10 mmol, 3.89 g | COC=1C=C(C(=O)OCC)C(=CC1OCC1CCN(CC1)C)[N+](=O)[O-] | C17H24N2O6
reactant | hydrogen | [H][H] | H2
solvent | methanol | 80 ml | CO | CH4O
catalyst | platinum on activated carbon | 389 mg | [Pt] | Pt
product | ethyl 6-amino-3-methoxy-4-(1-methylpiperidin-4-ylmethoxy)benzoate | 2.58 g, 80% | NC1=CC(=C(C=C1C(=O)OCC)OC)OCC1CCN(CC1)C | C17H26N2O4
